US04489093
Using the procedure of Step B of Example 43, (1R,trans,Z) 2,2-dimethyl-3-(2-bromo-3-oxo-3-ethoxy-1-propenyl)-cyclopropane carboxylic acid and (S)α-cyano-3-phenoxy-benzyl alcohol were reacted to obtain (S)α-cyano-3-phenoxy-benzyl (1R,trans,Z) 2,2-dimethyl-3-(2-bromo-3-oxo-3-ethoxy-1-propenyl)-cyclopropanecarboxylate melting at 97° C. and having a specific rotation of [α]D20 =+5°±1° (c=1% in chloroform).

reactant | (1R,trans,Z) 2,2-dimethyl-3-(2-bromo-3-oxo-3-ethoxy-1-propenyl)-cyclopropane carboxylic acid | CC1([C@@H]([C@H]1\C=C(\C(OCC)=O)/Br)C(=O)O)C | C11H15BrO4
reactant | (S)α-cyano-3-phenoxy-benzyl alcohol | C(#N)[C@H](C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
product | (S)α-cyano-3-phenoxy-benzyl (1R,trans,Z) 2,2-dimethyl-3-(2-bromo-3-oxo-3-ethoxy-1-propenyl)-cyclopropanecarboxylate | CC1([C@@H]([C@H]1\C=C(\C(OCC)=O)/Br)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C25H24BrNO5
